US08623869B2
Step 2: 3-(1-Aminoethyl)benzoic acid hydrochloride
3-(1-(Hydroxyimino)ethyl)benzoic acid (2.28 g, 12.73 mmol) and palladium on carbon (10 wt. %, 1.355 g, 12.73 mmol) in ethanol (170 mL) and 12M aqueous HCl (2.1 mL, 24.2 mmol) were stirred under an atmosphere of H2 at 40 psi for 6 hours. The reaction mixture was purged with nitrogen for 30 minutes then filtered through a pad of Celite washing with methanol. The filtrate was concentrated in vacuo and the residue triturated from Et2O to give the sub-title compound as a white (2.4 g, 94% Yield). 1H NMR (400 MHz, CD3OD) δ 1.66 (d, 3H), 4.55 (q, 1H), 7.58 (t, 1H), 7.70 (d, 1H), 8.07 (d, 1H) and 8.16 (s, 1H); MS (ES+) 166.5.

reactant | 3-(1-(Hydroxyimino)ethyl)benzoic acid | 12.73 mmol, 2.28 g | ON=C(C)C=1C=C(C(=O)O)C=CC1 | C9H9NO3
reactant | HCl | 24.2 mmol, 12M, 2.1 mL | Cl | ClH
catalyst | palladium on carbon | 12.73 mmol, 1.355 g | [Pd] | Pd
solvent | ethanol | 170 mL | C(C)O | C2H6O
product | 3-(1-Aminoethyl)benzoic acid hydrochloride | 94% Yield | Cl.NC(C)C=1C=C(C(=O)O)C=CC1 | InChI=1S/C9H11NO2.ClH/c1-6(10)7-3-2-4-8(5-7)9(11)12;/h2-6H,10H2,1H3,(H,11,12);1H
